US04448776
A solution of 9.2 g of α-chlorophenylacetic acid methyl ester, dissolved in 10 ml of acetonitrile, is added dropwise in the course of 10 minutes, while stirring, to a mixture of 11.3 g of N-diphenylmethyl-ethylenediamine, 5.05 g of triethylamine and 70 ml of acetonitrile. The mixture is then heated under reflux for 18 hours. It is then concentrated to dryness by evaporation under reduced pressure, triturated with 100 ml of 10% sodium hydroxide solution and extracted twice by shaking with 100 ml of diethyl ether each time. The ether phases are combined, washed three times with 30 ml of saturated sodium chloride solution each time, dried over magnesium sulphate and concentrated by evaporation. The residue obtained after concentration by evaporation is shaken with 10% (by weight) sodium hydroxide solution and diethyl ether in order to remove any excess triethylamine. The ether phases are further treated as indicated above. Finally, drying is effected at approximately 0.15 mbar. N-(α-methoxycarbonylbenzyl)-N'-diphenylmethyl-ethylenediamine is obtained which is converted into the diacetate for characterisation. For that purpose, 14.8 g of base are dissolved in 15 ml of diethyl ether and 15 ml of hexane, and glacial acetic acid is added dropwise while stirring and cooling. The precipitate is filtered with suction, recrystallised from approximately 360 ml of diethyl ether and 90 ml of hexane and dried under reduced pressure (under 0.2 mbar). The N-(α-methoxycarbonylbenzyl)-N'-diphenylmethyl-ethylenediamine acetate melts at 78°-81° C. Pure N-(α-methoxycarbonylbenzyl)-N'-diphenylmethyl-ethylenediamine can be freed from this by treatment with 10% sodium hydroxide solution, extraction by shaking with diethyl ether, drying over magnesium sulphate and evaporating off the solvent.

reactant | α-chlorophenylacetic acid methyl ester | 9.2 g | COC(C(Cl)C1=CC=CC=C1)=O | C9H9ClO2
reactant | N-diphenylmethyl-ethylenediamine | 11.3 g | C1(=CC=CC=C1)C(NCCN)C1=CC=CC=C1 | C15H18N2
reactant | triethylamine | 5.05 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | N-(α-methoxycarbonylbenzyl)-N'-diphenylmethyl-ethylenediamine | COC(=O)C(C1=CC=CC=C1)NCCNC(C1=CC=CC=C1)C1=CC=CC=C1 | C24H26N2O2
